US07888354B2
(3) Preparation of 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
A suspension of (2R)-1-[3-(4-iodophenoxy)propyl]-2-methylpyrrolidine obtained in Example 1-(2) (1.60 g), 1H-pyrazole-4-carboxylic acid ethyl ester (0.779 g), (rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (0.263 g), copper iodide (0.088 g) and cesium carbonate (3.02 g) in N,N-dimethylformamide (2.5 mL) was stirred at 120° C. for 4 hours. The reaction mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=3:1) to give the titled compound (1.11 g) as a yellow oil.

reactant | (2R)-1-[3-(4-iodophenoxy)propyl]-2-methylpyrrolidine | IC1=CC=C(OCCCN2[C@@H](CCC2)C)C=C1 | C14H20INO
reactant | 1H-pyrazole-4-carboxylic acid ethyl ester | 0.779 g | C(C)OC(=O)C=1C=NNC1 | C6H8N2O2
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.263 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 3.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | copper iodide | 0.088 g | [Cu](I)I
product | 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.11 g | C(C)OC(=O)C=1C=NN(C1)C1=CC=C(C=C1)OCCCN1[C@@H](CCC1)C | C20H27N3O3
